US07622480B2
E. Preparation of 4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)piperidine-1-carboxylic acid tert-butyl ester
Under nitrogen atmosphere, 1.14 g (3.76 mmol) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 30 ml of anhydrous DMF and, at room temperature, carefully added to a suspension containing 0.24 g (6.05 mmol) of 60% sodium hydride. This mixture was stirred for 30 minutes and 8.2 ml (4.92 mmol) of a freshly prepared 0.6 M solution of 3-bromomethylfuran in ethyl ether were dropwise added and the reaction mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure and the crude mixture was extracted between ethyl acetate and water. The organic phase was washed with water and brine, dried with magnesium sulphate, filtered and evaporated to dryness. The crude mixture was purified by flash chromatography over silica gel affording 1.4 g (97% of yield) of the expected product.

reactant | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 3.76 mmol, 1.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=NC=CC=C21 | C17H23N3O2
reactant | sodium hydride | 6.05 mmol, 0.24 g | [H-].[Na+]
reactant | 3-bromomethylfuran | BrCC1=COC=C1 | C5H5BrO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CC2=COC=C2 | C22H27N3O3
